US07022421B2
The ligand [(((pyrrole-2-yl)methylidene)amino)ethyl]amine was prepared by adding a methanolic solution of pyrrole-2-carboxaldehyde (1.430 g, 15 mmol, 100 mL) to a methanolic solution of tris(2-aminoethyl)amine (0.720 g, 5 mmol, 10 mL). The resulting yellow solution was stirred at room temperature for 30 min. A methanolic solution of gallium(III) nitrate hydrate (1.280 g, 5 mmol, 150 mL) was added to the ligand solution and stirred at room temperature for 30 min. The solution was filtered and left to stand at ambient temperature until crystallization occurred. The crude material was then sublimed at 235° C.

reactant | pyrrole-2-carboxaldehyde | 15 mmol, 100 mL, 1.430 g | N1C(=CC=C1)C=O | C5H5NO
reactant | tris(2-aminoethyl)amine | 5 mmol, 10 mL, 0.720 g | NCCN(CCN)CCN | C6H18N4
reactant | gallium(III) nitrate hydrate | 5 mmol, 150 mL, 1.280 g | O.[N+](=O)([O-])[O-].[Ga+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
product | [(((pyrrole-2-yl)methylidene)amino)ethyl]amine | N1C(=CC=C1)C=NCCN | C7H11N3
